US03933890
To a stirred solution of triphenylphosphine (34 g.) in dry benzene (300 ml.) was added ethyl 6-bromohexa-2,4-dienoate (30 g.). After 18 hours, the benzene was decanted from the precipitated paste which solidified on adding diethyl ether and was ground up and filtered to give 5-ethoxycarbonylpenta-2,4-dienyltriphenylphosphonium bromide (40 g.), m.p. 139°-144°C.

reactant | triphenylphosphine | 34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 6-bromohexa-2,4-dienoate | 30 g | BrCC=CC=CC(=O)OCC | C8H11BrO2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 5-ethoxycarbonylpenta-2,4-dienyltriphenylphosphonium bromide | 40 g | [Br-].C(C)OC(=O)C=CC=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H26O2P.BrH/c1-2-28-26(27)21-13-6-14-22-29(23-15-7-3-8-16-23,24-17-9-4-10-18-24)25-19-11-5-12-20-25;/h3-21H,2,22H2,1H3;1H/q+1;/p-1
